US06613773B2
To 2-mercapto-6-hydroxy-4-phenylpyrimidine (10 g) in ‘880’ ammonia solution (100 ml) was carefully added Raney nickel (32.5 g, 50% slurry) portionwise. Immediate effervescence took place. The mixture was heated to reflux for 4 hours, filtered and concentrated under reduced pressure. The initial residue was azeotroped with toluene (×2) to remove final traces of water. The pale blue residue was dissolved in hot ethanol and filtered and then the filtrate was treated with charcoal. The resulting green solution was evaporated under reduced pressure to afford crude 4-hydroxy-6-phenylpyrimidine (4.65 g) as a green solid (m.p.>300° C.) which was used in the next stage without further purification.

reactant | 2-mercapto-6-hydroxy-4-phenylpyrimidine | 10 g | SC1=NC(=CC(=N1)C1=CC=CC=C1)O | C10H8N2OS
catalyst | Raney nickel | 32.5 g | [Ni] | Ni
solvent | ammonia | 100 ml | N | H3N
product | 4-hydroxy-6-phenylpyrimidine | 4.65 g | OC1=NC=NC(=C1)C1=CC=CC=C1 | C10H8N2O
